US06448409B1
(4S)-4-(1-methylethyl)-3-[3-hydroxyl-2-(phenylmethoxy)-1-oxohexyl]-2-oxazolidineselone.
(4S)-4-(1-methylethyl)-3-[3-hydroxyl-2-(phenylmethoxy)-1-oxo-4-hexen-1-yl]-2-oxazolidineselone, Yield: 85.0%. IR (KBr, cm−1) 3600, 3027.8, 2964.8, 2859.7, 1725.4, 1480.3, 1398.3, 1277.3, 1200.3, 1144.2, 1018.2, 829.1, 752.1, 703.1, 584.1; 1H NMR δ 7.40 (m, 4H), 6.63 (d, 1H, J=3.6 Hz), 5.80 (m, 2H), 4.71 (m, 4H), 4.40 (m, 2H), 2.58 (d, 1H, J=7.8 Hz), 2.27 (dhep, 1H, J=7.0 Hz, J=3.7 Hz), 1.75 (d, 3H, J=6.0 Hz), 0.94 (d, 3H, J=7.0 Hz), 0.88 (d, 3H, J=6.9 Hz); 13C NMR δ 188.92, 171.67, 136.98, 129.30, 128.72, 128.31, 128.16, 78.93, 73.88, 73.49, 69.81, 63.93, 28.65, 18.05, 17.82, 14.81; 77Se NMR δ 441.94 (d, J=4.9 Hz). HRMS (FAB) m/z 412.1039 (412.1028 calcd for C19H26NO4Se, M+H).

reactant | (4S)-4-(1-methylethyl)-3-[3-hydroxyl-2-(phenylmethoxy)-1-oxo-4-hexen-1-yl]-2-oxazolidineselone | CC(C)[C@@H]1N(C(OC1)=[Se])C(C(C(C=CC)O)OCC1=CC=CC=C1)=O | C19H25NO4Se
reactant | KBr | [K+].[Br-]
product | (4S)-4-(1-methylethyl)-3-[3-hydroxyl-2-(phenylmethoxy)-1-oxohexyl]-2-oxazolidineselone | CC(C)[C@@H]1N(C(OC1)=[Se])C(C(C(CCC)O)OCC1=CC=CC=C1)=O | C19H27NO4Se
